US08957074B2
Following general reductive alkylation method 1, 7-Cyclopentyl-2-[5-((1S,6R)-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide was combined with formaldehyde (37% solution in water) which after purification gave 7-cyclopentyl-2-[5-((1S,6R)-9-methyl-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (41 mg) in 80% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.69 (s, 1H), 8.81 (s, 1H), 8.31 (d, J=9.09 Hz, 1H), 8.12 (d, J=2.53 Hz, 1H), 7.58 (dd, J=9.09, 2.53 Hz, 1H), 6.63 (s, 1H), 4.76 (m, 1H), 4.16 (d, J=14.65 Hz, 1H), 3.35 (m, 1H), 3.28 (m, 1H), 3.20 (t, J=6.57 Hz, 1H), 3.06 (br. s., 6H), 2.99 (m, 1H), 2.46 (m, 2H), 2.34 (s, 3H), 2.06 (m, 6H), 1.81 (m, 2H), 1.67 (m, 3H).

reactant | 7-Cyclopentyl-2-[5-((1S,6R)-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]3CC[C@H](CC2=O)N3)N1C1CCCC1)C | C26H32N8O2
reactant | formaldehyde | C=O | CH2O
product | 7-cyclopentyl-2-[5-((1S,6R)-9-methyl-4-oxo-3,9-diaza-bicyclo[4.2.1]non-3-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 41 mg, 80% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]3CC[C@H](CC2=O)N3C)N1C1CCCC1)C | C27H34N8O2
